US07405305B2
b) 2-(1H-Indol-7-yl)ethanol
Dissolve the brown oil in tetrahydrofuran (500 mL), add distilled water (100 mL), and cool the mixture to 15° C. Add 1M aqueous hydrochloric acid (100 mL), then stir at 15° C. for 2 hours. Add solid sodium hydrogen carbonate until the reaction mixture is basic, and saturate by adding solid sodium chloride. Separate, filter, and concentrate under reduced pressure to obtain 9.3 of a brown oil, which is a mixture of the title compound and 2-nitrophenethyl alcohol.

reactant | 2-nitrophenethyl alcohol | [N+](=O)([O-])C1=C(CCO)C=CC=C1 | C8H9NO3
reactant | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 2-(1H-Indol-7-yl)ethanol | N1C=CC2=CC=CC(=C12)CCO | C10H11NO
